*$ model description: "awbmc33064"
*a Device model created by analog_uprev for mc33064 on Wed Feb 28 08:56:23 IST 2001


.subckt awbmc33064   2 11 7
DD8 3 14 M1MD_NORM
.MODEL M1MD_NORM D IS=10.000000F XTI=3 EG=1.11
* SPECTRE: + IMAX=1000
FI1 11 2 VFI1 -10
VFI1 14 11 0.0
RR45 11 3 37.500000K TC=1.600000M 2.000000U
RR44 3 2 112.500000K TC=1.600000M 2.000000U
RR24 10 2 10.000000U TC=0 0
EV1 10 1 POLY(2) 2 11 2 10 0 0 0 0 10.000000G 0 0 0 0 0
RR23 4 7 45 TC=2.879270M (-1.000000U)
QQ4 4 1 11  M2MMC_Q1
.MODEL M2MMC_Q1 NPN CJC=500.000000F CJE=21.000000P IS=10.000000F BF=
+ 850
SS1 11 12 11 9  MS3MSS1
.MODEL MS3MSS1 VSWITCH VT=-4.6 VH=50.000000M RON=24.000000K ROFF=48.000000K
SS2 12 2 11 9  MS4MSS2
.MODEL MS4MSS2 VSWITCH VT=-2.304 VH=1.000000M RON=12.000000K ROFF=
+ 36.000000K
RR13 1 2 136.500000K TC=6.627970M 27.933600U
SS5 11 1 9 12  MS5MSS5
.MODEL MS5MSS5 VSWITCH VT=5.000000M VH=1.000000M RON=1 ROFF=1.000000G
SS6 11 16 12 9  MS6MSS6
.MODEL MS6MSS6 VSWITCH VT=-10.000000M VH=1.000000M RON=1 ROFF=100.000000MEG
RR37 16 9 100.000000MEG TC=0 0
RR38 11 16 700.000000K TC=3.950000M 32.500000U
RR39 9 2 100.000000MEG TC=22.636670U (-848.330000N)
DD6 7 2 M7MMC_DCL
.MODEL M7MMC_DCL D IS=40.000000N N=2.74 RS=8
* SPECTRE: + IMAX=1000
.ends
*$ end model description: "awbmc33064"
*
*
*$ model description: "awbs8052alb"
*a Device model created by analog_uprev for s8052alb on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8052alb   2 8 4
* VDD VSS VOUT
* A B C
RR9 8 5 1.000000K TC=260.000000U 0
II2 8 5 1.000000M
MQ15 12 6 8 8 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 899.999940M
RR4 3 2 248.000000K TC=0 0
RR3 8 12 810.960020K TC=0 0
RR2 12 3 1.545040MEG TC=0 0
SS1 6 8 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 8 8 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M80546_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M80546_P PMOS LEVEL=1 VTO=-499.999970M KP=40.000000U
.ends
*$ end model description: "awbs8052alb"
*
*
*$ model description: "awbs8052alo"
*a Device model created by analog_uprev for s8052alo on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8052alo   2 8 4
* VDD VSS VOUT
* A B C
RR9 8 5 1.000000K TC=310.000000U 0
II2 8 5 1.000000M
MQ15 12 6 8 8 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 1.2
RR4 3 2 312.000000K TC=0 0
RR3 8 12 672.984010K TC=0 0
RR2 12 3 1.615070MEG TC=0 0
SS1 6 8 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 8 8 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M80546_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M80546_P PMOS LEVEL=1 VTO=-499.999970M KP=40.000000U
.ends
*$ end model description: "awbs8052alo"
*
*
*$ model description: "awbs8052alr"
*a Device model created by analog_uprev for s8052alr on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8052alr   2 8 4
* VDD VSS VOUT
* A B C
RR9 8 5 1.000000K TC=280.000000U 0
II2 8 5 1.000000M
MQ15 12 6 8 8 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 1
RR4 3 2 339.000000K TC=0 0
RR3 8 12 626.133000K TC=0 0
RR2 12 3 1.633980MEG TC=0 0
SS1 6 8 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 8 8 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M80546_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M80546_P PMOS LEVEL=1 VTO=-499.999970M KP=40.000000U
.ends
*$ end model description: "awbs8052alr"
*
*
*$ model description: "awbs8052aly"
*a Device model created by analog_uprev for s8052aly on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8052aly   2 8 4
* VDD VSS VOUT
* A B C
RR9 8 5 1.000000K TC=340.000000U 0
II2 8 5 1.000000M
MQ15 12 6 8 8 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 1.4
RR4 3 2 289.000000K TC=0 0
RR3 8 12 717.528990K TC=0 0
RR2 12 3 1.594470MEG TC=0 0
SS1 6 8 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 8 8 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M80546_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M80546_P PMOS LEVEL=1 VTO=-499.999970M KP=40.000000U
.ends
*$ end model description: "awbs8052aly"
*
*
*$ model description: "awbs8053alb"
*a Device model created by analog_uprev for s8053alb on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8053alb   2 8 4
* VDD VSS VOUT
* A B C
RR9 8 5 1.000000K TC=370.000000U 0
II2 8 5 1.000000M
MQ15 12 6 8 8 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 1.6
RR4 3 2 435.000000K TC=0 0
RR3 8 12 957.000000K TC=0 0
RR2 12 3 2.273310MEG TC=0 0
SS1 6 8 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 8 8 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M8053_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M8053_P PMOS LEVEL=1 VTO=-499.999970M KP=33.000000U
.ends
*$ end model description: "awbs8053alb"
*
*
*$ model description: "awbs8053alr"
*a Device model created by analog_uprev for s8053alr on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8053alr   2 8 4
* VDD VSS VOUT
* A B C
RR9 8 5 1.000000K TC=410.000000U 0
II2 8 5 1.000000M
MQ15 12 6 8 8 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 1.9
RR4 3 2 393.000000K TC=0 0
RR3 8 12 1.031900MEG TC=0 0
RR2 12 3 2.224380MEG TC=0 0
SS1 6 8 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 8 8 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M8053_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M8053_P PMOS LEVEL=1 VTO=-499.999970M KP=33.000000U
.ends
*$ end model description: "awbs8053alr"
*
*
*$ model description: "awbs8053hlb"
*a Device model created by analog_uprev for s8053hlb on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8053hlb   4 8 2
* VDD VSS VOUT
* A B C
RR9 8 5 1.000000K TC=380.000000U 0
II2 8 5 1.000000M
MQ15 12 6 8 8 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 1.7
RR4 3 2 366.500000K TC=0 0
RR3 8 12 1.099500MEG TC=0 0
RR2 12 3 2.199000MEG TC=0 0
SS1 6 8 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 8 8 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M8053_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M8053_P PMOS LEVEL=1 VTO=-499.999970M KP=33.000000U
.ends
*$ end model description: "awbs8053hlb"
*
*
*$ model description: "awbs8054alb"
*a Device model created by analog_uprev for s8054alb on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8054alb   2 7 4
* VDD VSS VOUT
* A B C
RR9 7 5 1.000000K TC=520.000000U 0
II2 7 5 1.000000M
MQ15 12 6 7 7 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 2.9
RR4 3 2 275.000000K TC=0 0
RR3 7 12 1.945760MEG TC=0 0
RR2 12 3 2.344240MEG TC=0 0
SS1 6 7 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 7 7 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M80546_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M80546_P PMOS LEVEL=1 VTO=-499.999970M KP=40.000000U
.ends
*$ end model description: "awbs8054alb"
*
*
*$ model description: "awbs8054alo"
*a Device model created by analog_uprev for s8054alo on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8054alo   4 7 2
* VDD VSS VOUT
* A B C
RR9 7 5 1.000000K TC=590.000000U 0
II2 7 5 1.000000M
MQ15 12 6 7 7 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 3.5
RR4 3 2 242.000000K TC=0 0
RR3 7 12 2.124760MEG TC=0 0
RR2 12 3 2.231240MEG TC=0 0
SS1 6 7 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 7 7 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M80546_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M80546_P PMOS LEVEL=1 VTO=-499.999970M KP=40.000000U
.ends
*$ end model description: "awbs8054alo"
*
*
*$ model description: "awbs8054alr"
*a Device model created by analog_uprev for s8054alr on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8054alr   2 7 4
* VDD VSS VOUT
* A B C
MQ9 4 6 2 2 M1M80546_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M80546_P PMOS LEVEL=1 VTO=-499.999970M KP=40.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ5 4 6 7 7 M2M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M2M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
SS1 6 7 3 1  MS3MSS1
.MODEL MS3MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
RR2 12 3 2.314000MEG TC=0 0
RR3 7 12 2.004600MEG TC=0 0
RR4 3 2 260.000000K TC=0 0
VV2 1 5 3.2
MQ15 12 6 7 7 M4M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
II2 7 5 1.000000M
RR9 7 5 1.000000K TC=560.000000U 0
.ends
*$ end model description: "awbs8054alr"
*
*
*$ model description: "awbs8054aly"
*a Device model created by analog_uprev for s8054aly on Wed Feb 28 08:56:23 IST 2001


.subckt awbs8054aly   4 7 2
* VDD VSS VOUT
* A B C
RR9 7 5 1.000000K TC=630.000000U 0
II2 7 5 1.000000M
MQ15 12 6 7 7 M1M8054_N L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M1M8054_N NMOS LEVEL=1 VTO=1 KP=600.000000U RD=10
VV2 1 5 3.8
RR4 3 2 226.000000K TC=0 0
RR3 7 12 2.182540MEG TC=0 0
RR2 12 3 2.156660MEG TC=0 0
SS1 6 7 3 1  MS2MSS1
.MODEL MS2MSS1 VSWITCH VT=0 VH=0 RON=10 ROFF=10.000000G
MQ5 4 6 7 7 M3M80546_N L=20.000000U W=2.600000M NRD=1 NRS=1
.MODEL M3M80546_N NMOS LEVEL=1 VTO=499.999970M KP=37.000000U
RR7 6 2 4.650000MEG TC=0 0
MQ9 4 6 2 2 M4M80546_P L=20.000000U W=200.000000U NRD=1 NRS=1
.MODEL M4M80546_P PMOS LEVEL=1 VTO=-499.999970M KP=40.000000U
.ends
*$ end model description: "awbs8054aly"
*
*
