* source OPA892
X_U1         N00673 N00378 N00357 VCC VEE OPA892
V_V1         VCC 0 15
V_V2         VEE 0 -15
R_R1         N00378 N00357  220 TC=0,0 
R_R2         0 N00378  24.44 TC=0,0 
R_R3         0 N00357  150 TC=0,0 
V_V4         N00673 0  AC 1
+SIN 0 100m 1E6 0 0 0
