* source OPA855_PSPICE
V_V3         N03033 0 DC 0Vdc AC 1Vac 
R_R3         0 OUT  200 TC=0,0 
V_V2         VEE 0 -2.5Vdc
R_R2         0 N02977  75 TC=0,0 
V_V1         VCC 0 2.5Vdc
R_R1         N02977 OUT  453 TC=0,0 
X_U1         N03033 N02977 OUT VCC VEE OPA855
