* source NEW_LIDAR
C_C237         +VS_5V 0  1nF  TC=0,0 
C_C238         +VS_5V 0  0.1uF  TC=0,0 
C_C239         GND VS_5V_2  0.1uF  TC=0,0 
C_C240         GND VS_5V_2  6.8uF  TC=0,0 
C_C242         GND -VS_5V_2  6.8uF  TC=0,0 
C_C241         GND -VS_5V_2  0.1uF  TC=0,0 
C_C244         APD_BIAS N1044650  4.7u  TC=0,0 
R_R144         N989572 GND  20 TC=0,0 
